US09062092B2
Zinc bis(trifluoromethylsulfonyl)imide (750 mg, 1.2 mmol) and (1-(trifluoromethyl)-1,2-benziodoxol-3(1H)-one (758 mg, 2.4 mmol) were added to a stirred solution of (R)-2-hydroxymethyl-2-methyl-but-3-enoic acid methyl ester (288 mg, 2.0 mmol) in dry deuterochloroform (4 mL) under nitrogen. The reaction mixture was stirred at room temperature under nitrogen in a sealed flask for 5 days. The resulting suspension was diluted with dichloromethane and the supernatant was separated and evaporated. Dichloromethane (5 mL) was added to the residue and the supernatant solution was purified by silica gel chromatography using a gradient of pentane/diethyl ether 10:1 to 5:1 to afford crude (R)-2-methyl-2-trifluoromethoxymethyl-but-3-enoic acid methyl ester (98 mg) as a clear oil which was used in the next step.

reactant | 1-(trifluoromethyl)-1,2-benziodoxol-3(1H)-one | 2.4 mmol, 758 mg | FC(I1OC(C2=C1C=CC=C2)=O)(F)F | C8H4F3IO2
reactant | (R)-2-hydroxymethyl-2-methyl-but-3-enoic acid methyl ester | 2.0 mmol, 288 mg | COC([C@@](C=C)(C)CO)=O | C7H12O3
solvent | deuterochloroform | 4 mL | [2H]C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Zinc bis(trifluoromethylsulfonyl)imide | 1.2 mmol, 750 mg | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Zn+2].[N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
product | (R)-2-methyl-2-trifluoromethoxymethyl-but-3-enoic acid methyl ester | 98 mg | COC([C@](C=C)(COC(F)(F)F)C)=O | C8H11F3O3
